US05426227
To the above toluenic solution containing levobunolol as free base, 16 ml ethanol and the stoichiometric amount of hydrogen chloride were added. The stirred mixture was cooled below 10° C. and kept at this temperature for one hour. The precipitated solid was filtered, washed with toluene, recrystallized twice from 43 ml ethanol and dried to give 10.0 g (51% yield) of levobunolol hydrochloride having a rotary power at 25° C. below -19°.

reactant | levobunolol | CC(C)(C)NC[C@@H](COC=1C=CC=C2C1CCCC2=O)O | C17H25NO3
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 16 ml | C(C)O | C2H6O
product | levobunolol hydrochloride | 10.0 g, 51% yield | CC(C)(C)NC[C@@H](COC=1C=CC=C2C1CCCC2=O)O.Cl | InChI=1S/C17H25NO3.ClH/c1-17(2,3)18-10-12(19)11-21-16-9-5-6-13-14(16)7-4-8-15(13)20;/h5-6,9,12,18-19H,4,7-8,10-11H2,1-3H3;1H/t12-;/m0./s1
